US04230707
4-Oxo-2-propyl-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid
A mixture of 2-amino-5-propyl-3-thiophenecarboxylic acid, ethyl ester, 7.4 g (0.035 mol) and 6-chloro-3-pyridinecarboxylic acid (Aldrich Chemical Company), 6.4 g (0.041 mol) is heated in an oil bath at 180° C. for two hours. The mixture is cooled, extracted with hot chloroform and the residue is dissolved in hot pyridine, cooled and 0.45 g of 4-oxo-2-propyl-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid is collected; mp 250°-254° C. after recrystallization from pyridine.

reactant | 2-amino-5-propyl-3-thiophenecarboxylic acid, ethyl ester | NC=1SC(=CC1C(=O)OCC)CCC | C10H15NO2S
reactant | 6-chloro-3-pyridinecarboxylic acid | ClC1=CC=C(C=N1)C(=O)O | C6H4ClNO2
product | 4-Oxo-2-propyl-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)SC(=C2)CCC | C14H12N2O3S
